US06638929B2
4-(3-Bromophenylamino)benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile
A solution of 300 mg (1.30 mmol) of 4-chlorobenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile and 0.160 mL (1.43 mmol) of 3-bromoaniline in 8 mL of 2-ethoxyethanol is heated at reflux temperature for 24 hours. The reaction mixture is partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is washed with saturated sodium bicarbonate, followed by brine, then dried over sodium sulfate, filtered through a pad of diatomaceous earth and concentrated in vacuo. The resultant solid is collected by filtration to give 300 mg (42%) of a beige solid, mp 242-245° C.

reactant | 4-chlorobenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 1.30 mmol, 300 mg | ClC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1 | C12H5ClN2O
reactant | 3-bromoaniline | 1.43 mmol, 0.160 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | 2-ethoxyethanol | 8 mL | C(C)OCCO | C4H10O2
product | 4-(3-Bromophenylamino)benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 300 mg, 42% | BrC=1C=C(C=CC1)NC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1 | C18H10BrN3O
